US05051413
The starting material is manufactured as follows: Reaction of 2-methylene-butyraldehyde with isocyanoacetic acid ethyl ester in a manneranalogous to that described in Example 1 yields 5-(buten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester. A solution of 16g of 5-(buten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester in 100 ml of ethanol/water (1:1) is heated at the boil, under reflux, for 15 hours. Thewhole is concentrated by evaporation in vacuo, the residue is taken up in 200 ml of dichloromethane, dried over sodium sulphate and filtered, and the filtrate is concentrated by evaporation to yield 2-formylamino-3-hydroxy-4-ethyl-4-pentenoic acid ethyl ester.

reactant | 5-(buten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1N=COC1C(=C)CC | C10H15NO3
reactant | ethanol water | 100 ml | C(C)O.O
product | 2-formylamino-3-hydroxy-4-ethyl-4-pentenoic acid ethyl ester | C(C)OC(C(C(C(=C)CC)O)NC=O)=O | C10H17NO4
